US05556860
(c) synthesis of 3-(1-benzylpiperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H)-quinazolinone
To a solution of 27.6 g (74.4 mmol) of α-(2-aminophenyl)-N-(1-benzylpiperidin-4-yl)benzylamine in 300 mL of tetrahydrofuran was added 12.1 g (74.5 mmol) of 1,1'-carbonyldiimidazole, and the mixture was heated under reflux for 8 hours. After allowing to cool, the reaction mixture was concentrated in vacuo. The residue was purified by means of column chromatography (silica gel, 1:9 methanol:chloroform). The resulting crude crystals were recrystallized from ethanol to give 24.0 g (60.3 mmol) of the title compound.

reactant | α-(2-aminophenyl)-N-(1-benzylpiperidin-4-yl)benzylamine | 74.4 mmol, 27.6 g | NC1=C(C=CC=C1)C(C1=CC=CC=C1)NC1CCN(CC1)CC1=CC=CC=C1 | C25H29N3
reactant | 1,1'-carbonyldiimidazole | 74.5 mmol, 12.1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 3-(1-benzylpiperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | 60.3 mmol, 24.0 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC2=CC=CC=C2C1C1=CC=CC=C1)=O | C26H27N3O
